** sch_path: /foss/designs/comparator_alt/schematic/tb_ckl_gen.sch
**.subckt tb_ckl_gen
x1 VDD CKL CK 0 ckl_gen
**** begin user architecture code


.param sw_stat_global   = 0
.param sw_stat_mismatch = 0
.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice ss




Vvdd  VDD  0 3.3
Vck  CK  0 PULSE(0 3.3 2n 100p 100p 8n 20n)



**** end user architecture code
**.ends

* expanding   symbol:  comparator_alt/schematic/ckl_gen.sym # of pins=4
** sym_path: /foss/designs/comparator_alt/schematic/ckl_gen.sym
** sch_path: /foss/designs/comparator_alt/schematic/ckl_gen.sch
.subckt ckl_gen VDD CKL CK VSS
*.iopin VDD
*.iopin VSS
*.ipin CK
*.opin CKL
x1 VDD net3 CK VSS inv_slow
x2 VDD net4 net3 VSS inv_slow
x3 VDD net5 net4 VSS inv_slow
x4 VDD net6 net5 VSS inv_slow
x5 VDD net7 net6 VSS inv_slow
x6 VDD CKD net7 VSS inv_slow
XM1 net1 CK VDD VDD pfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 net1 CKD VDD VDD pfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM3 net1 CK net2 VSS nfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM4 net2 CKD VSS VSS nfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM5 CKL net1 VSS VSS nfet_03v3 L=0.28u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM6 CKL net1 VDD VDD pfet_03v3 L=0.28u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends


* expanding   symbol:  comparator_alt/schematic/inv_slow.sym # of pins=4
** sym_path: /foss/designs/comparator_alt/schematic/inv_slow.sym
** sch_path: /foss/designs/comparator_alt/schematic/inv_slow.sch
.subckt inv_slow VDD Y A VSS
*.iopin VDD
*.iopin VSS
*.opin Y
*.ipin A
XMT1 Y A VSS VSS nfet_03v3 L=1u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM1 Y A VDD VDD pfet_03v3 L=1u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.temp 125
.options reltol=1e-4 vntol=1e-9
.control
save v(ck) v(ckl)
tran 0.01n 25n
meas tran trise trig v(ck) val=1.650000 rise=1 targ v(ckl) val=1.650000 rise=1
meas tran tfall trig v(ck) val=1.650000 fall=1 targ v(ckl) val=1.650000 fall=1
echo RESULT ss_v3.3 trise=$&trise tfall=$&tfall
.endc
.end
